US09403818B2
Preparation of methyl 8-(4-hydroxy-phenyl)-91-cyclopropyl-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(4-hydroxy-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (500 mg, 1.71 mmol) and 4-hydroxy-phenyl-boronic acid (283 mg, 2.06 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as a yellow solid (610 mg, 100%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 1.71 mmol, 500 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | 4-hydroxy-phenyl-boronic acid | 2.06 mmol, 283 mg | OC1=CC=C(C=C1)B(O)O | C6H7BO3
product | Methyl 8-(4-hydroxy-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | OC1=CC=C(C=C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C21H19NO4
